US04835157
1-Benzoyl-3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione
The title compound was prepared by the procedure of Example 11 using 2.0 g (5 mmol) of 3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione and benzoyl chloride (840 mg, 6 mmol). The named compound (481 mg, 19% yield) was obtained after recrystallization from CH2Cl2 /hexane, mp 153.5°-155° C.

reactant | 3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | 5 mmol, 2.0 g | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC=3C(C2=O)=CSC3)=O)C=C1 | C20H20FN3O3S
reactant | benzoyl chloride | 6 mmol, 840 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-Benzoyl-3-[2-[4-(4-fluorobenzoyl)piperidin-1-yl]ethyl]thieno[3,4-d]pyrimidine-2,4-dione | C(C1=CC=CC=C1)(=O)N1C(N(C(C=2C1=CSC2)=O)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)=O | C27H24FN3O4S
